US07067658B2
2-Benzyloxy-4-(2-chloro-4-difluoromethoxy-phenyl)-3-nitro-pyridine(6.90 g, 17.0 mmol) was dissolved in TFA (25 mL) and stirred at room temperature for 4 h. The reaction mixture was concentrated in vacuo. Purification using flash chromatography (15% MeOH/DCM) gave 1.00 g (19%) of 4-(2-chloro-4-difluoromethoxy-phenyl)-3-nitro-3H-pyridin-2-one as an orange solid: MS(AP) m/z 316.9 [(M+H)+, 98], 359.8 [(M+H+CH3CN)+, 100].

reactant | 2-Benzyloxy-4-(2-chloro-4-difluoromethoxy-phenyl)-3-nitro-pyridine | 17.0 mmol, 6.90 g | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)OC(F)F)Cl | C19H13ClF2N2O4
solvent | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(2-chloro-4-difluoromethoxy-phenyl)-3-nitro-3H-pyridin-2-one | 1.00 g, 19% | ClC1=C(C=CC(=C1)OC(F)F)C=1C(C(N=CC1)=O)[N+](=O)[O-] | C12H7ClF2N2O4
